US08877779B2
Dimethyl 2-[2-(2-fluorophenyl)ethyl]malonate, sodium hydroxide (22.7 g), ethanol (150 ml) and water (100 ml) were heated under reflux for 1.5 hr. The reaction mixture was concentrated under reduced pressure, and the residue was acidified with hydrochloric acid, and extracted with chloroform. The extract was washed with water and saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure to give 4-(2-fluorophenyl)butanoic acid.

reactant | Dimethyl 2-[2-(2-fluorophenyl)ethyl]malonate | FC1=C(C=CC=C1)CCC(C(=O)OC)C(=O)OC | C13H15FO4
reactant | sodium hydroxide | 22.7 g | [OH-].[Na+]
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 4-(2-fluorophenyl)butanoic acid | FC1=C(C=CC=C1)CCCC(=O)O | C10H11FO2
